US05708173
To a mixture of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline (81 mg), 4-phenylbutyric acid (40 mg) and dimethylformamide (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (50 mg) and 1-hydroxybenzotriazole (41 mg). After being stirred for an hour at ambient temperature, the mixture was poured into water and extracted with ethyl acetate. The organic layer was separated, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (dichloromethane-methanol) to give [2,6-dichloro-3-[N-methyl-N-(4-phenylbutyrylglycyl)amino]benzyloxy]-2-methylquinoline (105 mg) as a colorless glass.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline | 81 mg | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C20H19Cl2N3O2
reactant | 4-phenylbutyric acid | 40 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 50 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 41 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | [2,6-dichloro-3-[N-methyl-N-(4-phenylbutyrylglycyl)amino]benzyloxy]-2-methylquinoline | 105 mg | ClC1=C(COC=2C(=NC3=CC=CC=C3C2)C)C(=CC=C1N(C(CNC(CCCC1=CC=CC=C1)=O)=O)C)Cl | C30H29Cl2N3O3
